US06297250B1
2,6-Dimethoxy-4,8-dipiperidinopyrimidopyrimidine (NU3067)
2,6-Di chloro-4,8-dipiperidinopyrimidopyrimidine (0.184 g, 0.5 mmol) was dissolved in dry THF (15 ml), then added to freshly prepared sodium methoxide (4.1 ml, 1.22M, 5 mmol) in dry THF (5 ml) under a N2 atmosphere, and the mixture heated under reflux for 20 hours. After cooling to room temperature water (20 ml) was added and the product extracted into ethyl acetate (4×20 ml). The organic layers were combined, dried (MgSO4), filtered and the solvent removed in vacuo. Recrystallisation from methanol/water yielded the title compound as a yellow crystalline solid (0.083 g, 46%), m.p. 130-131° C. Found: C, 59.41; H, 7.27; N, 22.17. C18H26N6O2 requires C, 60.32; H, 7.31; N, 23.44%.

reactant | 2,6-Di chloro-4,8-dipiperidinopyrimidopyrimidine | 0.5 mmol, 0.184 g | ClC=1N=C(C2=C(C(=NC(=N2)Cl)N2CCCCC2)N1)N1CCCCC1 | C16H20Cl2N6
reactant | sodium methoxide | 5 mmol, 1.22M, 4.1 ml | C[O-].[Na+]
reactant | water | 20 ml | O | H2O
reactant | THF | 15 ml | C1CCOC1 | C4H8O
reactant | THF | 5 ml | C1CCOC1 | C4H8O
product | 2,6-Dimethoxy-4,8-dipiperidinopyrimidopyrimidine | 0.083 g, 46% | COC=1N=C(C2=C(C(=NC(=N2)OC)N2CCCCC2)N1)N1CCCCC1 | C18H26N6O2
